US08975254B2
e) 3-(1-trityl-1H-imidazol-4-yl)-1,2,4-oxadiazole-5-carboxylic acid
Ethyl 3-(1-trityl-1H-imidazol-4-yl)-1,2,4-oxadiazole-5-carboxylate (1.1 g, 2.442 mmol) was dissolved in ethanol (60 ml) and the resulting solution was cooled to 0° C. Cesium carbonate (6.36 g, 19.53 mmol) was dissolved in water (25 ml) and added into the solution. The reaction mixture was refluxed for 1 h. Ethanol was evaporated, diluted with water, filtered and washed with water. The solid was dried in vacuum at 40° C. The product was purified by recrystallization from THF and ethyl acetate, respectively. LC-MS: [M+1]=423.435.

reactant | Ethyl 3-(1-trityl-1H-imidazol-4-yl)-1,2,4-oxadiazole-5-carboxylate | 2.442 mmol, 1.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C1=NOC(=N1)C(=O)OCC | C27H22N4O3
reactant | Cesium carbonate | 19.53 mmol, 6.36 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | 3-(1-trityl-1H-imidazol-4-yl)-1,2,4-oxadiazole-5-carboxylic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C1=NOC(=N1)C(=O)O | C25H18N4O3
